US06964966B2
A mixture of 20% Pd(OH)2 on carbon (0.4 g) and 4-amino-1-benzyl-3,5-dimethyl-3-ethylpiperidine (2.2 g, 8.9 mmol) in methanol (15 ml) was stirred in hydrogen atmosphere (1 atm.) at 60° C. for 10 hr. The catalyst was filtered off, washed with methanol and filtrate was concentrated to dryness to afford 4-amino-3,5-dimethyl-3-ethylpiperidine as a semi solid.

reactant | 4-amino-1-benzyl-3,5-dimethyl-3-ethylpiperidine | 8.9 mmol, 2.2 g | NC1C(CN(CC1C)CC1=CC=CC=C1)(CC)C | C16H26N2
solvent | methanol | 15 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 0.4 g | [OH-].[OH-].[Pd+2]
product | 4-amino-3,5-dimethyl-3-ethylpiperidine | NC1C(CNCC1C)(CC)C | C9H20N2
